US05723483
N-(4-Hydrazino-3-isobutylphenyl)-4-methylbenzenesulphonamide hydrobromide.
This compound is prepared according to the procedure described in step A of Preparation 2.18, from 10 g of N-(4-nitrophenyl)-4-methylbenzenesulphonamide in 100 ml of THF and 42.6 ml of a 2M solution of isobutylmagnesium chloride in ether, followed by 4.4 ml of bromine and 23.4 ml of triethylamine. 5.9 g of the expected product are obtained, m.p.=170° C.

reactant | N-(4-nitrophenyl)-4-methylbenzenesulphonamide | 10 g | [N+](=O)([O-])C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C13H12N2O4S
reactant | isobutylmagnesium chloride | C(C(C)C)[Mg]Cl
reactant | bromine | 4.4 ml | BrBr | Br2
reactant | triethylamine | 23.4 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-(4-Hydrazino-3-isobutylphenyl)-4-methylbenzenesulphonamide hydrobromide | 5.9 g | Br.N(N)C1=C(C=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C)CC(C)C | InChI=1S/C17H23N3O2S.BrH/c1-12(2)10-14-11-15(6-9-17(14)19-18)20-23(21,22)16-7-4-13(3)5-8-16;/h4-9,11-12,19-20H,10,18H2,1-3H3;1H
